US04636570
Trimethylhydroquinone (8.4 g), 1,7,11,15-tetrachloro-3,7,11,15-tetramethyl-hexadec-2-ene (22 g) and acetic acid (30 cc) are introduced into a 250 cc reactor. A solution of zinc chloride (1.5 g) in anhydrous acetic acid (15 cc) is then added in the course of 10 minutes. The temperature rises from 25° to 30° C. The reaction mixture is stirred for 2 hours at 30° C. and is then poured into a mixture of hexane (100 cc) and water (100 cc). The organic phase is separated by decanting and washed with a mixture (100 cc) of methanol and water (50:50 by volume). A white precipitate forms in the hexane phase, and this is filtered off and washed with a mixture (50 cc) of methanol and water (50:50 by volume). After the precipitate has been dried under reduced pressure, 2,5,7,8-tetramethyl-2-(4',8',12'-trichloro-4',8',12'-trimethyl-tridecyl)-chroman-6-ol (14.3 g) is obtained in the form of white crystals melting at 102°-104° C. The yield is 62%.

reactant | Trimethylhydroquinone | 8.4 g | CC=1C(=C(C(=C(O)C1)C)C)O | C9H12O2
reactant | 1,7,11,15-tetrachloro-3,7,11,15-tetramethyl-hexadec-2-ene | 22 g | ClCC=C(CCCC(CCCC(CCCC(C)(C)Cl)(C)Cl)(C)Cl)C | C20H36Cl4
reactant | hexane | 100 cc | CCCCCC | C6H14
reactant | water | 100 cc | O | H2O
solvent | acetic acid | 15 cc | C(C)(=O)O | C2H4O2
catalyst | zinc chloride | 1.5 g | [Cl-].[Zn+2].[Cl-]
solvent | acetic acid | 30 cc | C(C)(=O)O | C2H4O2
product | 2,5,7,8-tetramethyl-2-(4',8',12'-trichloro-4',8',12'-trimethyl-tridecyl)-chroman-6-ol | 14.3 g, yield is 62% | CC1(OC2=C(C(=C(C(=C2CC1)C)O)C)C)CCCC(CCCC(CCCC(C)(C)Cl)(C)Cl)(C)Cl | C29H47Cl3O2
